US04515948
A solution of 14.6 g. of 4-amino-3,5-dimethyl-α-[(methylsulfonyl)-methyl]-benzyl alcohol in 50 ml. of absolute dimethylsulfoxide was treated with 1.17 g. of sodium amide, stirred for 2 hours at room temperature, diluted with 500 ml. of water and extracted with two 500 ml. portions of ethyl acetate. The ethyl acetate extract was washed with two 200 ml. portions of water and evaporated under vacuum. After recrystallization of the residue from cyclohexane, there was obtained 4-amino-3,5-dimethyl-benzaldehyde having a melting point of 75°-76° C.

reactant | 4-amino-3,5-dimethyl-α-[(methylsulfonyl)-methyl]-benzyl alcohol | NC1=C(C=C(C(CS(=O)(=O)C)O)C=C1C)C | C11H17NO3S
reactant | sodium amide | [NH2-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-amino-3,5-dimethyl-benzaldehyde | NC1=C(C=C(C=O)C=C1C)C | C9H11NO
